US04937246
To a mixture of 1-(3,4,5-trimethoxybenzyl)piperazine (0.5 g), potassium carbonate (3 g), ethyl acetate (30 ml) and water (20 ml) is added dropwise benzoyl chloride (1 ml) at room temperature with stirring. The mixture is stirred for one hour. Ethyl acetate (100 ml) and water (100 ml) are added to the mixture, followed by extraction. The ethyl acetate layer is separated, washed with water, dried, and concentrated under reduced pressure. The residue is dissolved in ethyl ether (200 ml). To the mixture is added hydrogen chloride - ethyl acetate (1N) (4 ml). Resultant precipitates are recrystallized from ethanol - ethyl ether to afford 1-benzoyl-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.5 g) as colorless powdery crystals, m.p. 220°-225° C. (decomp.).

reactant | 1-(3,4,5-trimethoxybenzyl)piperazine | 0.5 g | COC=1C=C(CN2CCNCC2)C=C(C1OC)OC | C14H22N2O3
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 100 ml | O | H2O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzoyl-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.5 g | Cl.C(C1=CC=CC=C1)(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C21H26N2O4.ClH/c1-25-18-13-16(14-19(26-2)20(18)27-3)15-22-9-11-23(12-10-22)21(24)17-7-5-4-6-8-17;/h4-8,13-14H,9-12,15H2,1-3H3;1H
